US05866572
Using an analogous procedure to that described in Example 34, 6-bromomethyl-4-(3-methylanilino)quinazoline was reacted with 2-mercapto-1-methylimidazole sodium salt [prepared by the reaction of 2-mercapto-1-methylimidazole and sodium ethoxide in ethanol] to give 4-(3-methylanilino)-6-(N-methylimidazol-2-ylthiomethyl)quinazoline in 65% yield, m.p. 137°-139° C.;

reactant | 6-bromomethyl-4-(3-methylanilino)quinazoline | BrCC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)C | C16H14BrN3
reactant | 2-mercapto-1-methylimidazole sodium salt | [Na].SC=1N(C=CN1)C
reactant | 2-mercapto-1-methylimidazole | SC=1N(C=CN1)C | C4H6N2S
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-methylanilino)-6-(N-methylimidazol-2-ylthiomethyl)quinazoline | 65% yield | CC=1C=C(NC2=NC=NC3=CC=C(C=C23)CSC=2N(C=CN2)C)C=CC1 | C20H19N5S
